US07041667B1
tert-Butyl (2R,3R)-3-{benzyl[(1R)-1-phenylethyl]amino}-2-hydroxy-3-phenylpropanoate
To a solution of (1R)-N-benzyl-1-phenyl-1-ethanamine (16.6 g, 79 mmol) in tetrahydrofuran (200 ml) at −10° C. was added n-butyl lithium (46 ml of a 1.6M solution in hexane, 74 mmol) dropwise. The purple solution was stirred for 15 minutes, cooled to −78° C. and a solution of tert-butylcinnamate (10.0 g, 49 mmol) in tetrahydrofuran (100 ml) added dropwise. After stirring for 2 hours (−)-camphorsulphonyl oxaziridine (18 g, 79 mmol) was added portionwise and the reaction stirred at −78° C. for 1 hour. The reaction was warmed to room temperature and saturated aqueous ammonium chloride solution added and the solvent removed under reduced pressure. The remaining aqueous mixture was extracted with dichloromethane (x2) and the combined organic layers were dried (MgSO4), filtered and evaporated under reduced pressure. The residue was dissolved in diethyl ether, filtered and the filtrate washed with water, dried (MgSO4), filtered and evaporated under reduced pressure. The pale yellow oily residue was purified by column chromatography on silica gel using a gradient elution of diethyl ether:hexane (0:100 to 10:90) to afford the title compound as a colourless oil, 10.0 g.

reactant | (1R)-N-benzyl-1-phenyl-1-ethanamine | 79 mmol, 16.6 g | C(C1=CC=CC=C1)N[C@H](C)C1=CC=CC=C1 | C15H17N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | tert-butylcinnamate | 49 mmol, 10.0 g | C(C)(C)(C)OC(C=CC1=CC=CC=C1)=O | C13H16O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | tert-Butyl (2R,3R)-3-{benzyl[(1R)-1-phenylethyl]amino}-2-hydroxy-3-phenylpropanoate | C(C1=CC=CC=C1)N([C@@H]([C@H](C(=O)OC(C)(C)C)O)C1=CC=CC=C1)[C@H](C)C1=CC=CC=C1 | C28H33NO3
